US05968928
6-Nitro2,3-dioxo-1,2,3,4,7,10-hexahydro-8H-pyrido[3,4-f]quinoxaline-9-carbothioic Acid Phenylamide
A mixture of the 6-nitropyridoquinoxalinedione (0.1 g, 0.38 mmol), phenylisothiocyanate (70 μL), triethylamine (70 μL) in DMF (5 mL) was stirred at 60° C. for 24 hours. The mixture was poured onto water and allowed to stand. The precipitate was collected by filtration, washed with water and ether, and dried in vacuo to give product (130 mg) as a beige solid; mp 270-274° C., nmR, IR.

reactant | 6-nitropyridoquinoxalinedione | 0.38 mmol, 0.1 g | [N+](=O)([O-])C1=CC2=NC(C(N=C2C2=C1N=CC=C2)=O)=O | C11H4N4O4
reactant | phenylisothiocyanate | 70 μL | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | triethylamine | 70 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-Nitro2,3-dioxo-1,2,3,4,7,10-hexahydro-8H-pyrido[3,4-f]quinoxaline-9-carbothioic Acid Phenylamide | 130 mg | C1(=CC=CC=C1)NC(=S)N1CC=2C=3NC(C(NC3C=C(C2CC1)[N+](=O)[O-])=O)=O | C18H15N5O4S
